US08614209B2
5-(1H-Pyrazol-4-yl)-thiophene-3-carboxylic acid (0.194 g, 1.0 mmol) and [1,4]diazepane-1-carboxylic acid tert-butyl ester (0.25 g, 1.25 mmol) were dissolved in DMF (5 mL) then DIPEA (0.387 g, 3.0 mmol) and HATU (0.46 g, 1.2 mmol) were added and the reaction mixture stirred at room temperature overnight. The solvent was removed by evaporation then the residue was dissolved in DCM and washed with water. The organic phase was washed with 0.5 M HCl then aqueous sodium hydrogen carbonate solution then the organics were evaporated. The crude material was purified by flash chromatography on a 10 g silica II cartridge, eluting with 2% methanol in DCM. The fractions containing the desired product were concentrated under vacuum to give 4-[5-(1H-pyrazol-4-yl)-thiophene-3-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.29 g) as a white solid. LCMS m/z 377.32 [M+H]+ R.T.=3.00 min (Analytical Method 6).

reactant | 5-(1H-Pyrazol-4-yl)-thiophene-3-carboxylic acid | 1.0 mmol, 0.194 g | N1N=CC(=C1)C1=CC(=CS1)C(=O)O | C8H6N2O2S
reactant | [1,4]diazepane-1-carboxylic acid tert-butyl ester | 1.25 mmol, 0.25 g | C(C)(C)(C)OC(=O)N1CCNCCC1 | C10H20N2O2
reactant | DIPEA | 3.0 mmol, 0.387 g | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.2 mmol, 0.46 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-[5-(1H-pyrazol-4-yl)-thiophene-3-carbonyl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 0.29 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C(=O)C1=CSC(=C1)C=1C=NNC1 | C18H24N4O3S
